### PR TITLE
Restrict pattern matching in binding position to eta-equality records (#6845 reopened)

### LINKED ISSUE #6825: Irrefutable matching in binders does not deliver expected results for non-eta patterns
```agda
module _ (A : Set) (P : A → Set) (p : (a : A) → P a) where

module Eta where

  record Wrap : Set where
    constructor wrap
    field unwrap : A

  F : Wrap → Set
  F (wrap x) = P x

  module _ (w@(wrap x) : Wrap) where

    works : F w
    works = p x
```
Here, Agda knows that `w = warp x`, so `F w` reduces.

I expected this to work also for records without eta-equality, but no:
```agda
module NoEta where

  record Wrap : Set where
    constructor wrap; no-eta-equality; pattern
    field unwrap : A

  F : Wrap → Set
  F (wrap x) = P x

  module _ (w@(wrap x) : Wrap) where

    fails : F w
    fails = p x
```
`F w` does not reduce here, Agda does not really know `w = wrap x`.

Actually, Agda only remembers `x = unwrap w`, and this is equivalent to `w = wrap x` only if we have eta for the record type.

From a user perspective, this is confusing, as one would expect `w@(wrap x)` to refine `w` so that matches on `w` can proceed.  It does so in lhss with the same notation.  Could the mechanism used in lhss also be used for the binder patterns?

Thanks to eta, the illusion continues to work until one turns eta off.

Agda seems to send an alert in form of a dead-code coloring, but this is not accompanied by a warning.  Also, the coloring is ephemeral.
- It shows when the error is raised: 
  Screenshot 2023-09-07 at 19 21 37
- It does _not_ show while we have not provoked an error:
  Screenshot 2023-09-07 at 19 31 42

Confused...

### PR DESCRIPTION
**Pull request by andreasabel**
This reverts commit b38093ef713158fb01aac1880f035ee183602372, reopening this PR by @plt-amy :
- #6845 

Closes #6825.

### CODE REVIEW

**Comment by andreasabel** [comment]
Rebased onto current master (2.6.5).

File: test/Fail/TelescopePatternEta.agda [hunk 1]
```diff
@@ -0,0 +1,10 @@
+module TelescopePatternEta where
+
+open import Agda.Builtin.Equality
```
Comment (andreasabel) [inline test/Fail/TelescopePatternEta.agda]: This import looks superfluous.

File: test/Fail/TelescopePatternEta.agda [hunk 2]
```diff
@@ -0,0 +1,10 @@
...
+
+record Wrap (A : Set) : Set where
+  constructor wrap; no-eta-equality; pattern
+  field unwrap : A
+open Wrap
```
Comment (andreasabel) [inline test/Fail/TelescopePatternEta.agda]: This `open` is superfluous.

File: test/Fail/LetPatternEta.agda [hunk 3]
```diff
@@ -0,0 +1,14 @@
+module LetPatternEta where
+
+open import Agda.Builtin.Equality
+
+record Wrap (A : Set) : Set where
+  constructor wrap; no-eta-equality; pattern
+  field unwrap : A
+open Wrap
```
Comment (andreasabel) [inline test/Fail/LetPatternEta.agda]: `open` is superfluous.

File: test/Fail/LetPatternEta.agda [hunk 4]
```diff
@@ -0,0 +1,14 @@
+module LetPatternEta where
+
+open import Agda.Builtin.Equality
```
Comment (andreasabel) [inline test/Fail/LetPatternEta.agda]: `import` superfluous

File: test/Fail/LetPatternData.agda [hunk 5]
```diff
@@ -0,0 +1,10 @@
+module LetPatternData where
+
+open import Agda.Builtin.Equality
+
+data Wrap (A : Set) : Set where
+  wrap : A → Wrap A
+open Wrap
```
Comment (andreasabel) [inline test/Fail/LetPatternData.agda]: superfluous `open`.

**Review by andreasabel — COMMENTED** [review]
Needs CHANGELOG entry for breaking change.

**Review by jespercockx — APPROVED** [review]

**Comment by nad** [comment]
I recently wrote some code where, in anticipation of this change, I used projections instead of patterns. I found this to be rather annoying. Here is one example:
* With patterns:
  ```agda
  (([ A ]) : Erased (Type a)) →
  ∃ λ (c : (([ x , y , _ ]) : Erased (A ²/≡)) → [ x ] ≡ [ y ]) →
    (([ x ]) : Erased A) → c [ x , x , refl x ] ≡ refl [ x ]
  ```
* With projections:
  ```agda
  (A : Erased (Type a)) →
  ∃ λ (c : (p : Erased (erased A ²/≡)) →
           [ erased p .proj₁ ] ≡ [ erased p .proj₂ .proj₁ ]) →
    (x : Erased (erased A)) →
    c [ erased x , erased x , refl (erased x) ] ≡
    refl [ erased x ]
  ```

I prefer the code with patterns, because I find it easier to read.

**Comment by jespercockx** [comment]
Maybe we could only restrict the pattern matching in let bindings to eta-records when `--exact-split` is enabled? The consequence is very similar in both cases (not having an equality hold definitionally), so I believe it makes sense.

**Comment by andreasabel** [comment]
Too late for 2.7.

**Comment by andreasabel** [comment]
Agda dev call 2026-03-04: Too late for 2.9. 
- @plt-amy suggest to make a deprecation warning for this and release the warning.

**Comment by andreasabel** [comment]
Closed in favor of
- #8503
